US08802864B2
4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2-(2-hydroxy-2-methylpropyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (100 mg, 0.233 mmol) in N,N-dimethylformamide (1 mL) in a 5 mL microwaveable vial was added potassium carbonate (100 mg, 0.724 mmol, 3.1 eq) and 1-chloro-2-methyl-2-propanol (50 mg, 0.461 mmol, 2 eq). The vial was capped and purged with nitrogen gas, and the reaction mixture was stirred for 16 h at 80° C. Analysis by LC/MS displayed no reaction. The solution was then irradiated in the microwave at 185° C. for 60 min. Analysis by LC/MS displayed the reaction was complete. The reaction mixture was poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extractions were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 25-55% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (56 mg, 48%). MS(ES)+ m/e 501.1 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.233 mmol, 100 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
reactant | potassium carbonate | 0.724 mmol, 100 mg, 3.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-methyl-2-propanol | 0.461 mmol, 50 mg, 2 eq | ClCC(C)(O)C | C4H9ClO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2-(2-hydroxy-2-methylpropyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 56 mg, 48% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(N(N=C2C[C@H]2CN(CC2)C(=O)C2CC2)CC(C)(C)O)=O | C29H32N4O4
